US05661163
A solution of EtOAc saturated with HCl (200 ml) was added to 4-cyano-N-(1,1-dimethylethoxy)carbonyl-4-(2-methylphenyl)piperidine (31 mg, 0.097 mmol). The resulting mixture was allowed to react for 1 hour at room temperature. The EtOAc was removed in vacuo affording 4-cyano-4-(2-methylphenyl)piperidine hydrochloride as a white solid.

reactant | HCl | 200 ml | Cl | ClH
reactant | 4-cyano-N-(1,1-dimethylethoxy)carbonyl-4-(2-methylphenyl)piperidine | 0.097 mmol, 31 mg | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C18H24N2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-cyano-4-(2-methylphenyl)piperidine hydrochloride | Cl.C(#N)C1(CCNCC1)C1=C(C=CC=C1)C | InChI=1S/C13H16N2.ClH/c1-11-4-2-3-5-12(11)13(10-14)6-8-15-9-7-13;/h2-5,15H,6-9H2,1H3;1H
